US05864039
4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.00 g) was dissolved in dimethylformamide (30 ml). 1-Methylindole-3-carboxylic acid (0.48 g) and 1-hydroxybenzotriazole (0.37 g) were added and the mixture was stirred at 0° C. for 15 min. Then, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.53 g) was added, and the mixture was stirred at room temperature for 19 hr. The reaction mixture was concentrated under reduced pressure. Aqueous potassium carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.25 g of N-(6-(4-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)-piperidin-1-yl)hexyl)-1-methyl-1 H-indole-3-carboxamide.

reactant | 4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.00 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN)C=C1Cl)OC | C20H33ClN4O2
reactant | 1-Methylindole-3-carboxylic acid | 0.48 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 1-hydroxybenzotriazole | 0.37 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.53 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(6-(4-(4-amino-5-chloro-2-methoxybenzoylaminomethyl)-piperidin-1-yl)hexyl)-1-methyl-1 H-indole-3-carboxamide | 0.25 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCNC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | C30H40ClN5O3
